US07402595B2
6-carbamoyl-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a 4N-hydrochloric acid dioxane solution (5 ml) was added 2-(4-tert-butoxycarbonylbenzyl)-6-carbamoyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (140 mg), and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated under reduced pressure, and the obtained crystals were washed with methanol to give the title compound (86 mg).

reactant | hydrochloric acid dioxane | 5 ml | O1CCOCC1.Cl
reactant | 2-(4-tert-butoxycarbonylbenzyl)-6-carbamoyl-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 140 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(N)=O)=O)CC1=CC=C(C=C1)C(=O)OC(C)(C)C | C30H28N2O6
product | 6-carbamoyl-2-(4-carboxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 86 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(N)=O)=O)CC1=CC=C(C=C1)C(=O)O | C26H20N2O6
